US06590118B1
N-{2-[3,4-Bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenyl}acetamide (40 mg, 0.07 mmol) was dissolved in ethanol (10 ml). 4N hydrochloric acid (10 ml) was added and the reaction mixture was refluxed for 15 hours. The mixture was evaporated in vacuo and redissolved in methylene chloride and 0.5 N aqueous sodium hydroxide (1:1) (20 ml). The organic phase was dried over magnesium sulphate and evaporated in vacuo to give 2-[3,4-bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenylamine as an oil (yield: 37 mg (100%)). 1H-NMR (CDCl3 in ppm): 3.9 (2H, broad s); 5.58 (4H, s); 6.75 (1H, d.d.); 6.85 (1H,d.d.); 6.9 (1H,d.d.); 7.0 (1H,d.d.); 7.1 (1H,d.d.); 7.2-7.4 (10H,m); 7.48 (1H,d); 7.8 (1H,d).

reactant | N-{2-[3,4-Bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenyl}acetamide | 0.07 mmol, 40 mg | C(C1=CC=CC=C1)N1N=NN=C1C=1C=C(OC2=C(C=CC=C2)NC(C)=O)C=CC1C1=NN=NN1CC1=CC=CC=C1 | C30H25N9O2
reactant | hydrochloric acid | 4N, 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[3,4-bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenylamine | C(C1=CC=CC=C1)N1N=NN=C1C=1C=C(OC2=C(C=CC=C2)N)C=CC1C1=NN=NN1CC1=CC=CC=C1 | C28H23N9O
